US04640913
N-[1-(Hydroxymethyl)-2-(octadecyloxy)ethyl]acetamide
A mixture of about 4.69 g of N-[1-[(octadecyloxy)methyl]-2-[(tetrahydro-2H-pyran-2-yl)oxy]ethyl]acetamide in about 200 ml of methanol and about 4 ml of about 1N hydrochloric acid was stirred for about 24 hours and the methanol removed under reduced pressure. The residue was dissolved in ethyl acetate, washed with aqueous sodium bicarbonate, dried and the solvent removed, giving about 3.2 g of the desired title compound, mp 82°-85° C.

reactant | N-[1-[(octadecyloxy)methyl]-2-[(tetrahydro-2H-pyran-2-yl)oxy]ethyl]acetamide | about 4.69 g | C(CCCCCCCCCCCCCCCCC)OCC(COC1OCCCC1)NC(C)=O | C28H55NO4
solvent | methanol | about 200 ml | CO | CH4O
solvent | hydrochloric acid | about 1N, about 4 ml | Cl | ClH
product | N-[1-(Hydroxymethyl)-2-(octadecyloxy)ethyl]acetamide | about 3.2 g | OCC(COCCCCCCCCCCCCCCCCCC)NC(C)=O | C23H47NO3
